US07700641B2
A. Synthesis of ethyl 2-(2-(tert-butoxycarbonylamino)-6-methoxyphenyl)-2-oxoacetate
To a solution of tert-butyl 3-methoxyphenylcarbamate (25.6 g, 0.11 mol) in THF (300 mL) was added n-BuLi (0.25 mol, 1.6 M solution in pentane) at −78° C. The resulted solution was stirred at 0° C. for 3 hours and re-cooled to −78° C. followed by the addition of diethyl oxalate (20.1 g, 0.14 mol). The mixture was stirred at −78° C. for 45 min and at ambient temperature for one hour, and quenched with 1 N HCl. The mixture was extracted with ether. The organic solution was dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography to give 3.70 g (27% based on recovered starting material) of the title compound: MS (ES+) m/z 324.3 (M+1).

reactant | tert-butyl 3-methoxyphenylcarbamate | 0.11 mol, 25.6 g | COC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C12H17NO3
reactant | n-BuLi | 0.25 mol, 1.6 M | [Li]CCCC
reactant | diethyl oxalate | 0.14 mol, 20.1 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | ethyl 2-(2-(tert-butoxycarbonylamino)-6-methoxyphenyl)-2-oxoacetate | C(C)(C)(C)OC(=O)NC1=C(C(=CC=C1)OC)C(C(=O)OCC)=O | C16H21NO6
